US05538974
A mixture of 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol (500 mg), N-phenylpiperazine (500 mg), potassium iodide (50 mg), potassium carbonate (400 mg) and N,N-dimethylformamide (10 ml) was stirred at 80° C for 8 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexaneethyl acetate-methanol=10:10:1), and a colorless oil obtained was converted to hydrochloride and recrystallized from methanol-acetone to give a white powder of cis 7-methoxy-4-[3(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol dihydrochloride obtained in Reference Example 26.

reactant | 4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol | 500 mg | ClCCCC1C(COC2=C(S1)C=C(C=C2)OC)O | C13H17ClO3S
reactant | N-phenylpiperazine | 500 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | cis 7-methoxy-4-[3(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol dihydrochloride | Cl.Cl.COC=1C=CC2=C(S[C@@H]([C@@H](CO2)O)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | InChI=1S/C23H30N2O3S.2ClH/c1-27-19-9-10-21-23(16-19)29-22(20(26)17-28-21)8-5-11-24-12-14-25(15-13-24)18-6-3-2-4-7-18;;/h2-4,6-7,9-10,16,20,22,26H,5,8,11-15,17H2,1H3;2*1H/t20-,22-;;/m1../s1
